US04294960
7-[2-(2-formamidothiazol-4-yl)-2-iso-butoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 4.1 g.), conc. hydrochloric acid (3.65 g.) and methanol (61.5 ml.) were treated in a similar manner to that of Example 15-(3) to give 7-[2-(2-aminothiazol-4-yl)-2-iso-butoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 2.4 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-iso-butoxyiminoacetamido]-3-cephem-4-carboxylic acid | 4.1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC(C)C | C17H19N5O6S2
reactant | hydrochloric acid | 3.65 g | Cl | ClH
solvent | methanol | 61.5 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-iso-butoxyiminoacetamido]-3-cephem-4-carboxylic acid | 2.4 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC(C)C | C16H19N5O5S2
